US08865704B2
trans-4-{[2-(2-amino-phenyl)-acetylamino]-methyl}-cyclohexane carboxylic acid methyl ester
A solution of trans-4-{[2-(2-Nitro-phenyl)-acetylamino]-methyl}-cyclohexanecarboxylic acid methyl ester (4 g) in MeOH (600 mL) was submitted to continuous flow rate hydrogenation by H-Cube (ThalesNano®) using a 10% Pd/C cartridge (small cartridge, full hydrogen mode, flux 0.6 ml/min, P=1 atm). Finally, the solvent was removed under reduced pressure to obtain the titled compound (3.64 g, quantitative yield).

reactant | trans-4-{[2-(2-Nitro-phenyl)-acetylamino]-methyl}-cyclohexanecarboxylic acid methyl ester | 4 g | COC(=O)[C@@H]1CC[C@H](CC1)CNC(CC1=C(C=CC=C1)[N+](=O)[O-])=O | C17H22N2O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 600 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | trans-4-{[2-(2-amino-phenyl)-acetylamino]-methyl}-cyclohexane carboxylic acid methyl ester | 3.64 g, quantitative yield | COC(=O)[C@@H]1CC[C@H](CC1)CNC(CC1=C(C=CC=C1)N)=O | C17H24N2O3
